### PR TITLE
[Merged by Bors] - chore(Logic/Relation): golf using `grind`

### PR DESCRIPTION
**Pull request by SnirBroshi**
Also tag `Relation.map_apply` with `grind =`.

---
- `comp_assoc`: 14ms to 23ms
- `IsTrans.map`: 10ms to 28ms
- `instIsPreorderOfIsTrans`: ? to 11ms
- `total_of_right_unique`: ? to 80ms
- `isTrans_join`: 10ms to 100ms
- `Quot.eqvGen_sound`: ? to ?
- `Equivalence.eqvGen_iff`: ? to 14ms

(the question marks mean that `trace.profiler` doesn't output anything, maybe they're below 1ms?)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by themathqueen** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/87e8eb9264ca2dac299894824fdaffaed4693c59?reference=c368140668f5fa16a1bd977448c1f665d48c3df4) for 87e8eb9264ca2dac299894824fdaffaed4693c59 against c368140668f5fa16a1bd977448c1f665d48c3df4 are in. No significant results found. @themathqueen

- 🟥 `build//instructions`: **+41.6G** (**+0.03%**)

**Small changes (1🟥)**

- 🟥 `build/module/Mathlib.Logic.Relation//instructions`: **+1.3G** (**+6.60%**)

File: Mathlib/Logic/Relation.lean [hunk 1]
```diff
@@ -988,23 +973,10 @@ theorem Quot.eqvGen_exact (H : Quot.mk r a = Quot.mk r b) : EqvGen r a b :=
...
-  Iff.intro
-    (by
-      intro h
-      induction h with
-      | rel => assumption
-      | refl => exact h.1 _
-      | symm => apply h.symm; assumption
-      | trans _ _ _ _ _ hab hbc => exact h.trans hab hbc)
-    (EqvGen.rel a b)
+  ⟨by intro h; induction h <;> grind [Equivalence], .rel a b⟩
```
Comment (themathqueen) [inline Mathlib/Logic/Relation.lean:972]:
```suggestion
  ⟨fun h ↦ by induction h <;> grind [Equivalence], .rel a b⟩
```

**Comment by grunweg** [comment]
Here and in your other grind golfing PR: can you add a performance comparison (look at `euprunin`'s PRs for an example) please? Thanks!

File: Mathlib/Logic/Relation.lean [hunk 2]
```diff
@@ -501,10 +491,7 @@ theorem total_of_right_unique (U : Relator.RightUnique r) (ab : ReflTransGen r a
   | refl => exact Or.inl ac
   | tail _ bd IH =>
     rcases IH with (IH | IH)
-    · rcases cases_head IH with (rfl | ⟨e, be, ec⟩)
-      · exact Or.inr (single bd)
-      · cases U bd be
-        exact Or.inl ec
+    · grind [cases_head IH, Relator.RightUnique]
```
Comment (chenson2018) [inline Mathlib/Logic/Relation.lean]: At the most extreme the whole proof could even be
```lean
induction ab with grind [→ cases_head, Relator.RightUnique]
```
though some compromise inbetween along the spectrum of readability/performance is probably preferable

**Comment by SnirBroshi** [comment]
> Here and in your other grind golfing PR: can you add a performance comparison (look at `euprunin`'s PRs for an example) please? Thanks!

Hey, is there an easy way to create these, or at least an unbiased way to determine how log each decl takes? I'm currently adding `set_option trace.profiler true` and then commenting/uncommenting it to retry a few times, then taking what feels to me like the average. This seems like a bad way to do it.

**Comment by themathqueen** [comment]
> I'm currently adding `set_option trace.profiler true` and then commenting/uncommenting it to retry a few times, then taking what feels to me like the average.

I think this is fine? Then just do a side-by-side comparison of golf-vs-ungolfed.

File: Mathlib/Logic/Relation.lean (hunk 2 above)
Comment (SnirBroshi) [reply Mathlib/Logic/Relation.lean]: This increases the time from 15ms to 80ms, but I think it's worth it

File: Mathlib/Logic/Relation.lean [hunk 3]
```diff
@@ -249,7 +245,7 @@ lemma map_apply : Relation.Map r f g c d ↔ ∃ a b, r a b ∧ f a = c ∧ g b
 
 @[simp]
 lemma map_apply_apply (hf : Injective f) (hg : Injective g) (r : α → β → Prop) (a : α) (b : β) :
-    Relation.Map r f g (f a) (g b) ↔ r a b := by simp [Relation.Map, hf.eq_iff, hg.eq_iff]
+    Relation.Map r f g (f a) (g b) ↔ r a b := by grind [Relation.Map]
```
Comment (themathqueen) [inline Mathlib/Logic/Relation.lean]: can you revert this please? I don't think `grind` here is worth it

File: Mathlib/Logic/Relation.lean [hunk 4]
```diff
@@ -274,8 +270,7 @@ instance _root_.Std.Symm.map {r : α → α → Prop} [Std.Symm r] (f : α → 
 
 lemma _root_.IsTrans.map {r : α → α → Prop} [IsTrans α r] {f : α → β}
     (hf : ∀ x y, f x = f y → r x y) : IsTrans β (Relation.Map r f f) := by
-  refine ⟨fun _ _ _ ⟨x, y, hxy, hx, hy⟩ ⟨y', z, hyz, hy', hz⟩ ↦ ?_⟩
-  exact ⟨x, z, trans_of r hxy <| trans_of r (hf y y' <| hy' ▸ hy) hyz, hx, hz⟩
+  grind [isTrans_def, Relation.Map]
```
Comment (b-mehta) [inline Mathlib/Logic/Relation.lean]: Does this suggest we should make [Relation.map_apply](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Relation.html#Relation.map_apply) a `grind =` lemma? Or, that we should use that lemma instead of unfolding the definition here?

**Review by b-mehta — APPROVED** [review]
Love it! PRs like this might also be good opportunities to think about or add new grind tags

File: Mathlib/Logic/Relation.lean (hunk 4 above)
Comment (SnirBroshi) [reply Mathlib/Logic/Relation.lean]: Oh nice! I'm usually wary of adding `grind` lemmas because I don't understand the performance considerations

**Review by themathqueen — COMMENTED** [review]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
